US08217066B2
Synthesis of 1-{4′-[4-(2-Hydroxy-4-phenyl-butyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid (Compound 20)
1-{4′-[3-Methyl-4-(2-oxo-4-phenyl-butyl)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid (0.015 g, 0.03 mmol) in MeOH was treated with sodium borohydride (0.001 g, 0.03 mmol) and stirred at room temperature for 5 minutes. Aqueous workup provided the title compound.

reactant | 1-{4′-[3-Methyl-4-(2-oxo-4-phenyl-butyl)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid | 0.03 mmol, 0.015 g | CC1=NOC(=C1CC(CCC1=CC=CC=C1)=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C1(CC1)C(=O)O | C30H27NO4
reactant | sodium borohydride | 0.03 mmol, 0.001 g | [BH4-].[Na+]
solvent | MeOH | CO | CH4O
product | 1-{4′-[4-(2-Hydroxy-4-phenyl-butyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid | OC(CC=1C(=NOC1C1=CC=C(C=C1)C1=CC=C(C=C1)C1(CC1)C(=O)O)C)CCC1=CC=CC=C1 | C30H29NO4
